US06458780B1
b) 7-Acetylaminoacetyl-2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole
7-Acetylaminoacetylimidazo[5,1-b]thiazole (397 mg) was dissolved in 40 ml of THF and 8 ml of HMPA. Tri-n-butylstannyl chloride (0.76 ml) and 7.1 ml of a 1.0 N lithiumbis(trimethylsilyl)amide/THF solution were added dropwise in that order in an argon atmosphere at −73° C. The mixture was stirred at the same temperature for one hr. An ammonium chloride solution was added to the reaction solution, followed by extraction with ethyl acetate. The organic layer was washed twice with brine, dried over anhydrous magnesium sulfate, and then filtered. The solvent was removed by distillation under the reduced pressure. The residue was purified by column chromatography on silica gel (eluting with ethyl acetate and then with dichloromethane:methanol=20:1) to give 152 mg of the title compound.

reactant | 7-Acetylaminoacetylimidazo[5,1-b]thiazole | 397 mg | C(C)(=O)NCC(=O)C=1N=CN2C1SC=C2 | C9H9N3O2S
reactant | Tri-n-butylstannyl chloride | 0.76 ml | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | lithiumbis(trimethylsilyl)amide THF | 1.0 N | C[Si](C)(C)[N-][Si](C)(C)C.[Li+].C1CCOC1
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | HMPA | 8 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | 7-Acetylaminoacetyl-2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole | 152 mg | C(C)(=O)NCC(=O)C=1N=CN2C1SC(=C2)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C9H8N3O2S.3C4H9.Sn/c1-6(13)10-4-7(14)8-9-12(5-11-8)2-3-15-9;3*1-3-4-2;/h2,5H,4H2,1H3,(H,10,13);3*1,3-4H2,2H3;
